US05512431
Hydrazine is added to a suspension of 8-bromodeoxyguanosine in water:methanol (150 mL, 1:2) and the resulting solution is heated at reflux for 24 hours. The resulting precipitate is removed by filtration and the filtrate is evaporated to a solid. After repeated evaporations from ethanol, the product is recrystallized from methanol. The purified 8-azido-2'-deoxyguanosine (1.3 g) is dissolved in a mixture of methanol:water (160 mL, 5:3), Raney nickel (10.0 g) is added, and the mixture is heated at reflux for 18 hours. The catalyst is removed by filtration through celite and after washing with water and methanol the filtrate is evaporated to dryness. The resulting solid is recrystallized from methanol to yield 8-aminodeoxyguanosine.

reactant | Hydrazine | NN | H4N2
reactant | 8-bromodeoxyguanosine | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=C(NC(C2N1)=O)N | C10H12BrN5O4
reactant | methanol | 150 mL | CO | CH4O
solvent | water | O | H2O
product | 8-aminodeoxyguanosine | NC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=C(NC(C2N1)=O)N | C10H14N6O4
